Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Cipro / Levaquin / Seroquel
 
Attending: ___.
 
Chief Complaint:
agitated depression, possible psychosis on ___ from ER
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Patient seen earlier this AM with RN, SW, Psych attending 
(___).  History provided largely by husband who is at 
bedside. Son (___) is also present to provide information.

___ with agoraphobia, major depression, anxiety disorder, 
___ disease brought to hospital by family because of 
acute on chronic worsening of outbursts of agtitation, paranoia, 
"psychosis".  Episodes typically happen in late afternoon or 
evening, and she can become combative. She states just feels 
internally agitated and a need to physically release when these 
episodes happen. Husband reports poor sleep due to her needs of 
care. Son or daughter are often called to assist in calming her 
down.  Was ___ in ER for geripsych eval and placement.  
Husband with some concern around her ___ control. 
Patient has otpt neurologist at ___ and a ___ neurologist 
(___), whom she hasn't seen in 1+ year (probably due to 
agoraphobia). Family has had little success with home health 
care takers and are getting burned out. They are concerned she 
get proper psych and neruo evaluations.

ROS: (+) 40+lb weight loss last year.  Poor appetite, food 
doesn't taste good.  (+) anhedonia, worseining social isolation, 
doesn't go out.  Denies abd pain, N/V, diarrhea, melena, 
hematochezia, anemia. Other 10pt systems are negative.

Son shows me a video clip of one of her behavioral outbursts 
with husband getting upset.  States father is a good person, but 
has a hard time separting himself from his wife for his own 
well-being.
 
Past Medical History:
Major depression - prior ECT
Anxiety disorder
Agoraphobia
Parkinsons
 
Social History:
___
Family History:
Mo - depression
Ma aunt - mental illness
 
Physical Exam:
Admission Exam (per admit note):
AVSS
Alert, oriented, though doesn't give most of history.  Endorses 
poor memory and a dislike for memory tasks. Oriented to place.  
Well groomed
HEENT - anicteric, OP clear, neck supple
___ about head/neck/axilla
LUNGS CTA bilat
COR RRR no MRG
ABD soft NT/ND no HSM or masses
EXT no edema
SKIN no lesions
NEURO alert, fluent speech. During our visit, she is 
appropriate. Moves all extremities w/o difficulty, sits up 
unassisted, no tremor, scant cog-wheel (is 1 hr overdue for her 
q2 sinemet)
PSYCH appears anxious at times, defers a lot of interaction to 
her husband, feels calm at the time of our interview

Discharge Exam:
Vital Signs: AFVSS
GEN: Alert, NAD
HEENT: NC/AT
CV: RRR, no m/r/g
PULM: CTA B 
GI: S/NT/ND, BS present 
NEURO: Oriented to ___, thought it was ___ MAE; no 
cogwheeling noted
PSYCH: calm and appropriate

 
Pertinent Results:
___ 03:00PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 03:00PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 03:00PM URINE  bnzodzpn-POS barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 03:00PM URINE  HOURS-RANDOM
___ 01:30PM   GLUCOSE-126* UREA N-9 CREAT-0.7 SODIUM-132* 
POTASSIUM-4.9 CHLORIDE-95* TOTAL CO2-26 ANION GAP-16
___ 01:30PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-POS barbitrt-NEG tricyclic-NEG
___ 01:30PM   WBC-7.9 RBC-4.15 HGB-12.9 HCT-38.3 MCV-92 
MCH-31.1 MCHC-33.7 RDW-11.9 RDWSD-39.8
___ 01:30PM   NEUTS-73.4* LYMPHS-16.3* MONOS-8.5 EOS-0.9* 
BASOS-0.5 IM ___ AbsNeut-5.82 AbsLymp-1.29 AbsMono-0.67 
AbsEos-0.07 AbsBaso-0.04
___ 01:30PM   PLT COUNT-270

___ CXR IMPRESSION: No acute cardiopulmonary process. 

 
Brief Hospital Course:
___ wth depression, anxiety, agoraphobia, ___ disease 
referred and admitted for increasingly agitated behavioural 
outbursts (yells, throws items), chronic weight loss and failure 
to thrive at home.  Concerning for worsenging underlying 
psychiatric conditions +/- Parkinsons medication difficulty.  
Patient family with significant caregiver stress.

Pt was seen by neuro and psych inpatient consult services, who 
were also in touch with her outpatient providers. Mental status 
reportedly improved with decreased Sinemet dosing.  Here in 
hospital, her behavioral stress and outbursts tend to occur when 
her husband is here or just after he leaves. 

Was initially placed on ___, but this was ultiamtely 
lifted. Patient was offered inpatient psych admission. However, 
she and her husband initially declined this. Pt and family now 
considering ___ unit at ___, will pursue this 
after discharge.

Pt was discharged on decreased regimen of Sinemet. She had been 
stable on this regimen in house for several days prior to 
discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Diazepam 1 mg PO ASDIR 
2. Carbidopa-Levodopa (___) 1 TAB PO ASDIR 
3. TraZODone 100 mg PO QHS 
4. Docusate Sodium 100 mg PO BID 
5. Polyethylene Glycol 17 g PO DAILY 

 
Discharge Medications:
1. Docusate Sodium 100 mg PO BID 
2. Polyethylene Glycol 17 g PO DAILY 
3. TraZODone 100 mg PO QHS 
4. Carbidopa-Levodopa (___) 1 TAB PO TID 
Give at 10:30a, 16:30a, 19:30p. 
RX *carbidopa-levodopa 25 mg-100 mg 1 tablet(s) by mouth three 
times a day Disp #*90 Tablet Refills:*0
5. Carbidopa-Levodopa (___) 1.5 TAB PO BID 
Give at 7:30a and 13:30. 
RX *carbidopa-levodopa 25 mg-100 mg 1.5 tablet(s) by mouth twice 
a day Disp #*90 Tablet Refills:*0
6. Carbidopa-Levodopa (___) 1 TAB PO Q2H:PRN parkinsons 
Between 00:00a and 6:30a, may give 1 tablet for ___ 
symptoms q2hrprn up to 3 doses. 
RX *carbidopa-levodopa 25 mg-100 mg 1 tablet(s) by mouth q2h 
Disp #*30 Tablet Refills:*0
7. Diazepam 1 mg PO DAILY 
Give at 8:00a. 
RX *diazepam 2 mg 0.5 (One half) tablet by mouth in the morning 
Disp #*15 Tablet Refills:*0
8. Diazepam 2 mg PO BID 
Give at 14:30p and at 20:30p  
RX *diazepam 2 mg 1 tablet by mouth twice a day Disp #*60 Tablet 
Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Major depression, unspecified
Agoraphobia w/ panic disorder
Parkinsonism

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with progressive anxiety, agitation, 
depression, and failure to thrive. You were seen by psychiatry 
as well as neurology. Your Sinemet was adjusted, and your 
agitation improved without worsening of Parkinsonism.  A team 
meeting was held to determine the best paln for you / your 
family going forward.  You are being discharged home with plans 
for further treatment at the ___ psychiatry 
unit (your husband is working to arrange this).
 
Followup Instructions:
___